US07994190B2
A mixture of methyl 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate (0.11 g, 0.38 mmol), zinc cyanide (45 mg, 0.38 mmol), zinc (5 mg, 0.08 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (14 mg, 0.019 mmol), and N,N-dimethylacetamide (0.5 mL) was stirred at 120° C. under argon for 2 hr. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between saturated aqueous sodium bicarbonate solution (10 mL) and ethyl acetate (20 mL). The aqueous layer was separated and extracted with ethyl acetate (10 mL). The combined organic solutions were dried (Na2SO4) and concentrated. Silica gel flash chromatography (0-100% ethyl acetate in hexanes) gave methyl 3-(6-cyanopyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate (70 mg, 0.24 mmol, 63% yield) as a colorless solid. MS found: (M+H)+=295.27.

reactant | methyl 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate | 0.38 mmol, 0.11 g | ClC1=CC=C(C=N1)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C17H18ClNO2
reactant | dichloromethane | 0.019 mmol, 14 mg | ClCCl | CH2Cl2
reactant | N,N-dimethylacetamide | 0.5 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 0.38 mmol, 45 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.08 mmol, 5 mg | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(6-cyanopyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate | 0.24 mmol, 70 mg, 63% yield | C(#N)C1=CC=C(C=N1)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C18H18N2O2
